US06749977B1
Next, 1-(4-vinylbenzyl)-2-(2-hydroxyethyl)benzimidazole was prepared. A mixture of 1-(4-vinylbenzyl)-2-methylbenzimidazole (20.0 g, 81 mmol), formaldehyde (320 mmol as 26.1 g of the 37% aqueous solution), and 25 g of pyridine were stirred magnetically and heated to 95° C. The mixture became homogeneous within minutes. After 24 h, the mixture was cooled to ambient and concentrated at reduced pressure to deposit a tan oil. The product was purified by flash chromatography (silica gel, 75% dichloromethane/25% ether), followed by recrystallization from a mixture of 100 mL of methanol plus 40 mL of water. The product was obtained as 9.1 g (41%) of an off-white solid. 1H NMR (CDCl3) δ 2.97 (t, J=5.5, 2H), 4.12 (t, J=5.5, 2H),4.1 (br s, 1H), 5.24 (d, J=10.8, 1H), 5.30 (s, 2H), 5.71 (d, J=17.6, 1H), 6.7 (m, 1H), 7.00 (d, J=8.1, 2H), 7.2 (m,3H) 7.34 (d, J= 8.2, 2H), 7.73 (m, 1H). ES−MS m/e 279+ (M+1).

reactant | 1-(4-vinylbenzyl)-2-methylbenzimidazole | 81 mmol, 20.0 g | C(=C)C1=CC=C(CN2C(=NC3=C2C=CC=C3)C)C=C1 | C17H16N2
reactant | formaldehyde | C=O | CH2O
solvent | pyridine | 25 g | N1=CC=CC=C1 | C5H5N
product | 1-(4-vinylbenzyl)-2-(2-hydroxyethyl)benzimidazole | C(=C)C1=CC=C(CN2C(=NC3=C2C=CC=C3)CCO)C=C1 | C18H18N2O
